US08003649B2
Methyl 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylate (5.0 g, 14.03 mmol), ammonium formate (4.42 g, 70.14 mmol) and palladium (5% on activated carbon, 200 mg) in ethanol (80 mL) were stirred and refluxed for 1 hour. The resulting mixture was cooled to ambient temperature and filtered through diatomaceous earth. The filtrate was concentrated by evaporation then treated with dilute aqueous ammonium chloride (100 mL) and extracted with ethyl acetate. The extract was washed sequentially with water and saturated brine, dried over MgSO4 and evaporated to a colourless solid. The solid was triturated with ether, then collected by filtration and air dried to give methyl 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1H-indole-5-carboxylate (4.59 g, 91%) as a colourless solid.

reactant | Methyl 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylate | 14.03 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)OC | C20H24N2O4
reactant | ammonium formate | 70.14 mmol, 4.42 g | C(=O)[O-].[NH4+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | palladium | 200 mg | [Pd] | Pd
product | methyl 3-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1H-indole-5-carboxylate | 4.59 g, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)C(=O)OC | C20H26N2O4
